US05643931
Dimethylformamide (150 ml) was added to 21.3 g of 1,9-dibromononane, 19.8 g of 4-hydroxybenzaldehyde and 21.7 g of potassium carbonate, and the mixture was stirred at 90° C. for 1.5 hours. The reaction mixture was cooled to room temperature and poured into water, and the thus formed precipitate was washed with water and then dried under a reduced pressure to obtain 26.9 g of 1,9-bis(4-formylphenoxy)nonane.

reactant | Dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
reactant | 1,9-dibromononane | 21.3 g | BrCCCCCCCCCBr | C9H18Br2
reactant | 4-hydroxybenzaldehyde | 19.8 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | potassium carbonate | 21.7 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | O | H2O
product | 1,9-bis(4-formylphenoxy)nonane | 26.9 g | C(=O)C1=CC=C(OCCCCCCCCCOC2=CC=C(C=C2)C=O)C=C1 | C23H28O4
